US05886194
Maleic anhydride can be reacted with amines to form the corresponding maleamic acid derivative. Suitably, a maleic anhydride containing polymer is reacted in solution or suspension with an amine in inert or non-reactive solvents, such as acetone, heptane, benzene or dibutylether, to provide the desired maleamic derivative.

reactant | maleic anhydride | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | acetone | CC(=O)C | C3H6O
reactant | heptane | CCCCCCC | C7H16
solvent | benzene | C1=CC=CC=C1 | C6H6
product | dibutylether | C(CCC)OCCCC | C8H18O
